US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-cyano-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-carbamoyl-5-phenylisoxazole (0.38 g) was dissolved in dimethylformamide (4 ml), and phosphorus oxychloride (0.11 ml) was added dropwise thereto at 5° C. under a nitrogen atmosphere, followed by stirring of the mixture at room temperature for 30 minutes. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to obtain the title compound (0.28 g, 78%) as a colorless solid.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-carbamoyl-5-phenylisoxazole | 0.38 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(N)=O)C1=CC=CC=C1 | C17H21N3O5
reactant | phosphorus oxychloride | 0.11 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-cyano-5-phenylisoxazole | 0.28 g, 78% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C#N)C1=CC=CC=C1 | C17H19N3O4
